US04929741
A solution of 12.5 ml (0.15 mol) of methyl propiolate in 150 ml of tetrahydrofuran was treated at -78° under argon with 100 ml of n-butyllithium (1.6M in hexane). The mixture was stirred at -78° for 10 minutes and then a solution of 9.8 g (80 mmol) of 4-hydroxybenzaldehyde in 50 ml of tetrahydrofuran was added within 30 minutes. The reaction mixture was stirred at -78° for a further 20 minutes, then brought to room temperature and treated with 200 ml of saturated ammonium chloride solution. The aqueous phase was extracted twice with ether. The combined organic phases were dried in sequence with saturated sodium sulphate and concentrated The residue was purified by flash chromatography on 1000 g of silica gel (elution agent methylene chloride/ethyl acetate 9:1). There was obtained methyl 4-hydroxy-4-(4-hydroxyphenyl)-2-butynoate as a red oil.

reactant | methyl propiolate | 0.15 mol, 12.5 ml | C(C#C)(=O)OC | C4H4O2
reactant | n-butyllithium | 1.6M, 100 ml | C(CCC)[Li]
reactant | 4-hydroxybenzaldehyde | 80 mmol, 9.8 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | methyl 4-hydroxy-4-(4-hydroxyphenyl)-2-butynoate | OC(C#CC(=O)OC)C1=CC=C(C=C1)O | C11H10O4
